US07312342B2
5 g of methyl 3-formylindole-7-carboxylate (0.024 mol) are added to a solution of 0.03 mol of hydroxylammonium hydrochloride in dimethylformamide. The reaction mixture is heated at 125° for one hour and subjected to conventional work-up, giving 5.1 g of methyl 3-(hydroxyiminomethyl)indole-7-carboxylate.

reactant | methyl 3-formylindole-7-carboxylate | 0.024 mol, 5 g | C(=O)C1=CNC2=C(C=CC=C12)C(=O)OC | C11H9NO3
reactant | hydroxylammonium hydrochloride | 0.03 mol | Cl.O[NH3+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 3-(hydroxyiminomethyl)indole-7-carboxylate | 5.1 g | ON=CC1=CNC2=C(C=CC=C12)C(=O)OC | C11H10N2O3
